US08802659B2
3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid (BIO-021973)
3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid methyl ester (164 mg, 0.352 mmol) was dissolved in Ethanol (2 mL, 40 mmol) then treated with 1 M of Sodium hydroxide in Water (2 mL, 2 mmol). The mixture was stirred vigorously for 1 hour. pH was adjust to 3-4 with 6 N HCl and reaction was then extracted three times with EtOAc. Organics were combined then dried over MgSO4, filtered and concentrated to dryness under reduced pressure. Ethyl ether was then added and a white ppt formed. The ppt. was removed via filtration to give a white solid that 99% pure by NMR and HPLC-traces of ethanol remain. 1H NMR (400 MHz, METHANOL-d4) δ ppm 0.83 (s, 9H) 0.93-1.10 (m, 1H) 1.11-1.27 (m, 2H) 1.27-1.42 (m, 2H) 1.73-1.89 (m, 2H) 2.19 (d, J=10.29 Hz, 2H) 2.67 (t, J=6.53 Hz, 2H) 3.03-3.18 (m, 2H) 4.22-4.37 (m, 1H) 5.33-5.51 (m, 1H) 7.13 (dd, J=8.91, 2.38 Hz, 1H) 7.21-7.29 (m, 1H) 7.46 (d, J=8.78 Hz, 1H) 7.76 (d, J=9.04 Hz, 1H) 7.85 (d, J=8.78 Hz, 1H) 7.93 (s, 1H).

reactant | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid methyl ester | 0.352 mmol, 164 mg | COC(CCNC(C(F)(F)F)C1=CC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C26H34F3NO3
reactant | Ethanol | 40 mmol, 2 mL | C(C)O | C2H6O
reactant | Sodium hydroxide | 1 M | [OH-].[Na+]
reactant | Water | 2 mmol, 2 mL | O | H2O
reactant | HCl | 6 N | Cl | ClH
product | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-yl]-2,2,2-trifluoro-ethylamino}-propionic acid | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)NCCC(=O)O | C25H32F3NO3
